US07381719B2
6-[2-Isopropyl-3-(2-pentylamino-ethyl)-phenoxy]-nicotinamide
Using a method similar to Example 710, Step 4, using 6-[3-(2-amino-ethyl)-2-isopropyl-phenoxy]-nicotinamide (299 mg, 1.00 mmol), valeraldehyde (112 mg, 1.30 mmol), and NaBH4 (57 mg, 1.50 mmol) gave the title compound (245 mg) as a colorless glass. Mass spectrum (ion spray): m/z=370 (M+1); 1H NMR (DMSO-d6): 8.59 (s, 1H), 8.22 (d, 1H), 8.00 (s, 1H), 7.44 (s, 1H), 7.10 (t, 1H), 7.01 (m, 2H), 6.80 (d, 1H), 3.24 (m, 1H), 2.76 (m, 2H), 2.63 (m, 2H), 2.50 (m, 2H), 1.38 (m, 2H), 1.25 (m, 4H), 1.16 (d, 6H), 0.84 (t, 3H).

reactant | 6-[3-(2-amino-ethyl)-2-isopropyl-phenoxy]-nicotinamide | 1.00 mmol, 299 mg | NCCC=1C(=C(OC2=NC=C(C(=O)N)C=C2)C=CC1)C(C)C | C17H21N3O2
reactant | valeraldehyde | 1.30 mmol, 112 mg | C(CCCC)=O | C5H10O
reactant | NaBH4 | 1.50 mmol, 57 mg | [BH4-].[Na+]
product | 6-[2-Isopropyl-3-(2-pentylamino-ethyl)-phenoxy]-nicotinamide | 245 mg | C(C)(C)C1=C(OC2=NC=C(C(=O)N)C=C2)C=CC=C1CCNCCCCC | C22H31N3O2
